US07514470B2
C. N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N2-(3,3,3-trifluoropropyl)alaninamide
To a suspension of N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(3,3,3-trifluoropropyl)alanine (0.020 g, 0.56 mmol) in CH2Cl2 (2 mL) was added oxalyl chloride (0.009 g, 0.07 mmol) and a catalytic amount of DMF. The mixture was heated at 45° C. for 45 min, cooled to rt and added to NH4OH (30% solution, 3 mL). The mixture was stirred for 30 min and then partitioned between EtOAc and 0.1N HCl. The organic phase was washed with brine, dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography (1-8% MeOH—CH2Cl2 gradient) and the product was crystallized from CH2Cl2-hexanes to give 0.014 g (70% yield) of the title compound as a white solid: MS (ES) m/z 354 (M+1).

reactant | N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(3,3,3-trifluoropropyl)alanine | 0.56 mmol, 0.020 g | C(#N)C1=C(C=C(C=C1)N([C@@H](C)C(=O)O)CCC(F)(F)F)C(F)(F)F | C14H12F6N2O2
reactant | oxalyl chloride | 0.07 mmol, 0.009 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | NH4OH | 3 mL | [NH4+].[OH-]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N2-(3,3,3-trifluoropropyl)alaninamide | 0.014 g, 70% yield | C(#N)C1=C(C=C(C=C1)N([C@@H](C)C(=O)N)CCC(F)(F)F)C(F)(F)F | C14H13F6N3O
